US07244725B2
A.3. Benzyl 6-ethyl-4-oxo-3,4-dihydroquinoline-1(2H)-carboxylate
To a solution of 6-ethyl-2,3-dihydroquinolin-4(1H)-one (1.25 g) in THF (15 mL) was added sodium bicarbonate (0.84 g). Water (5 mL) followed by benzyl chloroformate (1.58 g) were added to the mixture,and it was stirred at room temperature overnight. The reaction was not complete as determined by TLC, so an additional 0.60 g of NaHCO3 were added to the mixture and it was stirred at room temperature for two additional hours. The mixture was then concentrated under reduced pressure and the residue was partitioned between water and ethyl acetate and the organic layer was washed with brine, dried with magnesium sulfate, filtered, and concentrated. Chromotography on silicia gel using 25% ethyl acetate in heptane solvent solution gave 1.84 g of the title compound. MS (ESI+) for C19H19NO3 m/z 310.03 (M+H)+.

reactant | 6-ethyl-2,3-dihydroquinolin-4(1H)-one | 1.25 g | C(C)C=1C=C2C(CCNC2=CC1)=O | C11H13NO
reactant | sodium bicarbonate | 0.84 g | C([O-])(O)=O.[Na+]
reactant | Water | 5 mL | O | H2O
reactant | benzyl chloroformate | 1.58 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | NaHCO3 | 0.60 g | C(=O)(O)[O-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Benzyl 6-ethyl-4-oxo-3,4-dihydroquinoline-1(2H)-carboxylate | 1.84 g | C(C)C=1C=C2C(CCN(C2=CC1)C(=O)OCC1=CC=CC=C1)=O | C19H19NO3
